US04711898
Ethyl alpha-methylbenzoylacetate (5 grams) and 3.67 grams of methyl p-aminobenzoate are dehydrated (by heating) for three days in 100 ml of chloroform in the presence of 0.7 gram of p-toluenesulfonic acid. p-Toluenesulfonic acid is removed therefrom, the filtrate is concentrated, and purified by silica gel column chromatography to give an oil. The resulting oily product is heated to reflux in 70 ml of diphenyl ether, cooled, and crystals which separate therefrom are collected by filtration and recrystallized from a mixture of dimethyl formamide and water to give 2 grams of methyl 3-methyl-2-phenyl-4-quinolone-6-carboxylate, colorless crystals, melting point above 300° C.

reactant | Ethyl alpha-methylbenzoylacetate | 5 grams | CC(C(=O)OCC)C(C1=CC=CC=C1)=O | C12H14O3
reactant | methyl p-aminobenzoate | 3.67 grams | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | p-toluenesulfonic acid | 0.7 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | diphenyl ether | 70 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | methyl 3-methyl-2-phenyl-4-quinolone-6-carboxylate | 2 grams | CC1C(=NC2=CC=C(C=C2C1=O)C(=O)OC)C1=CC=CC=C1 | C18H15NO3
